US08614209B2
5-Bromo-thiophene-3-carboxylic acid methyl ester (1.29 g, 5.84 mmol) was dissolved in DME (13.5 mL), IMS (4.5 mL) and water (2 mL) and), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester (1.89 g, 6.43 mmol) and caesium carbonate (2.85 g, 8.77 mmol) were added followed by palladium tetrakis(triphenylphosphine) (0.675 g, 5.84 mmol). The reaction mixture was heated by microwave irradiation at 140° C. for 20 minutes and then diluted with water and extracted with DCM (×3). The organic solution was dried over sodium sulfate, filtered and the solvent evaporated. The residue was purified by chromatography on a silica II cartridge, eluting with 10 to 50% ethyl acetate in cyclohexane. The fractions containing the desired product were concentrated under vacuum to give 5-(1H-pyrazol-4-yl)-thiophene-3-carboxylic acid methyl ester as a white, flocculent solid (0.728 g).

reactant | 5-Bromo-thiophene-3-carboxylic acid methyl ester | 5.84 mmol, 1.29 g | COC(=O)C1=CSC(=C1)Br | C6H5BrO2S
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester | 6.43 mmol, 1.89 g | C(C)(C)(C)OC(=O)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O4
reactant | caesium carbonate | 8.77 mmol, 2.85 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 13.5 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | palladium tetrakis(triphenylphosphine) | 5.84 mmol, 0.675 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
solvent | water | 2 mL | O | H2O
product | 5-(1H-pyrazol-4-yl)-thiophene-3-carboxylic acid methyl ester | COC(=O)C1=CSC(=C1)C=1C=NNC1 | C9H8N2O2S
